US04666923
7,7-Dimethyl-2-(4-pyridyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-thione dihydrate
A solution of 2.0 g (7.2 mmol) 7,7-dimethyl-2-(4-pyridyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one in 35 ml. pyridine is heated for about 5 hours to 100° C. with 4 g. phosphorus pentasulphide (P4S10). Subsequently, the reaction mixture is decomposed with water, rendered alkaline and the desired product is extracted and purified on silica gel (elution agent: methylene chloride/ammonia-saturated methanol 20:1 v/v). Yield: 1.7 g. (72% of theory); m.p. 205°-220° C.

reactant | 7,7-dimethyl-2-(4-pyridyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | 7.2 mmol, 2.0 g | CC1(C(NC2=CC3=C(N=C(N3)C3=CC=NC=C3)C=C21)=O)C | C16H14N4O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | phosphorus pentasulphide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | water | O | H2O
product | 7,7-Dimethyl-2-(4-pyridyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-thione dihydrate | O.O.CC1(C(NC2=CC3=C(N=C(N3)C3=CC=NC=C3)C=C21)=S)C | InChI=1S/C16H14N4S.2H2O/c1-16(2)10-7-12-13(8-11(10)20-15(16)21)19-14(18-12)9-3-5-17-6-4-9;;/h3-8H,1-2H3,(H,18,19)(H,20,21);2*1H2
